US04840869
171.8 g of β-(2-benzofuryl)acrylic acid, synthesized in the manner as described in J. Chinese Chem. Soc. sev. II 8, pp. 374-379, and 101.5 g of triethylamine were added to 550 ml of acetone, to the mixture were added dropwise 75.9 g of chloroacetonitrile, and the mixture was refluxed by heating over a period of five hours. After the reaction, 400 ml of water were added to cool the reaction system, and the deposited crystals were filtered by a suction filter and then washed. The obtained crystals were recrystallized from acetone to thereby obtain 187 g of β-(2-benzofuryl)acrylic acid cyanomethyl ester having a melting point between 119° C. and 121° C.

reactant | β-(2-benzofuryl)acrylic acid | 171.8 g | O1C(=CC2=C1C=CC=C2)C=CC(=O)O | C11H8O3
reactant | triethylamine | 101.5 g | C(C)N(CC)CC | C6H15N
reactant | acetone | 550 ml | CC(=O)C | C3H6O
reactant | chloroacetonitrile | 75.9 g | ClCC#N | C2H2ClN
solvent | water | 400 ml | O | H2O
product | β-(2-benzofuryl)acrylic acid cyanomethyl ester | 187 g | C(#N)COC(C=CC=1OC2=C(C1)C=CC=C2)=O | C13H9NO3
